US05928841
1-Hydrox-2-naphthylaldehyde was mixed with sodium ethoxide, and ethanol was removed to obtain sodium salt of 1-hydroxy-2- naphthylaldehyde. Subsequently, benzoyl chloride was dropped to the salt to obtain 1-benzoyloxy-2-naphthol-aldehyde. 0.9 mol of malonic acid was added to 0.25 mol of 1-benzoyloxy-2-naphthol-aldehyde, and 10 ml of pyridine was added thereto and reacted at a temperature of 110° C. for 2 hours to obtain 1-benzoyloxy-2-β-carboxyl)vinylnaphthalene. 0.14 mol of the 1-benzoyloxy-2-β-carboxyl)vinylnaphthalene was dissolved in 100 ml of quinoline, and 5 g of copper powder was added thereto and reacted for further one hour at a temperature of 220° C. to obtain 1-benzoyloxy-2-vinylnaphthalane. Next, 0.1 mol of 1-benzoyloxy-2-vinylnaphthalane was polymerized in benzene in the presence of AIBN in the same manner as in Synthetic Example 1 to obtain poly(1-benzoyloxynaphthalene). The poly(1-benzoyloxyvinylnaphthalane) of an amount corresponding to 0.5 mol of the monomer was dissolved in acetone, and 1 g of aqueous 1N sodium hydroxide solution was added thereto and heated to obtain poly(vinylnaphthol) (Resin B). The obtained polymer was purified by reprecipitating it in an acetone-water-oxalic acid solution.

reactant | malonic acid | 0.9 mol | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | vinylnaphthalene | C(=C)C1=CC=CC2=CC=CC=C12 | C12H10
